US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 2,6-diethylaniline to yield 2-[(2,6-diethylphenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2,6-diethylaniline | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
product | 2-[(2,6-diethylphenyl)amino]phenylacetic acid | C(C)C1=C(C(=CC=C1)CC)NC1=C(C=CC=C1)CC(=O)O | C18H21NO2
